US05091419
To a solution of 833 mg N,N'-didecyl-m-xylylenediamine in 20 ml n-hexane, was added dropwise with stirring 5 ml of a n-hexane solution containing 620 mg 2,4-difluorophenyl isocyanate under ice cooling. Stirring was continued at room temperature for two hours, the solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography, giving 750 mg of 1,3-bis[[1-decyl-3-(2,4-difluorophenyl)ureido]methyl]benzene.

reactant | N,N'-didecyl-m-xylylenediamine | 833 mg | C(CCCCCCCCC)NCC1=CC(=CC=C1)CNCCCCCCCCCC | C28H52N2
reactant | 2,4-difluorophenyl isocyanate | 620 mg | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
solvent | n-hexane | 20 ml | CCCCCC | C6H14
solvent | n-hexane | 5 ml | CCCCCC | C6H14
product | 1,3-bis[[1-decyl-3-(2,4-difluorophenyl)ureido]methyl]benzene | 750 mg | C(CCCCCCCCC)N(C(=O)NC1=C(C=C(C=C1)F)F)CC1=CC(=CC=C1)CN(C(=O)NC1=C(C=C(C=C1)F)F)CCCCCCCCCC | C42H58F4N4O2
